US04898986
2,3,4,6-Tetra-O-benzyl-1-C-[bis(methylthio)methyl]-D-glucitol
2,3,4,6-Tetra-O-benzyl-1-C-[bis(methylthio)methyl]-D-glucopyranose (4.0 g) was dissolved in tetrahydrofuran (140 mL), to which lithium aluminum hydride (2.8 g) was added in portions under ice-cooling, and stirred at the same temperature for 18 hours and then at room temperature for 3 hours. Methanol (50 mL) was added dropwise to the mixture under ice-cooling, and evaporated under reduced pressure. The residue was added to a mixture of ethyl acetate (200 mL) and water (200 mL) under ice-cooling, and acidified (pH 1) with 2N hydrochloric acid under stirring. The ethyl acetate layer was separated and the aqueous layer was extracted with ethyl acetate (200 mL). The ethyl acetate extracts were combined, washed with water and saturated sodium hydrogencarbonate solution, dried over anhydrous sodium sulfate, and evaporate under reduced pressure. The residue was chromatographed on a column of silica gel (500 mL) with toluene-ethyl acetate (6:1) to resolve the two isomers, i.e. (1R)- and (1S)-isomers of 2,3,4,6-tetra-O-benzyl-1-C-[bis(methylthio)methyl]-D-glucitol. The fraction eluted earlier (550- 900 mL) was evaporated to dryness under reduced pressure, to give an isomer (11.5 g) showing [α]25D -5.8° (c=1, CHCl3) as a colorless syrup, and the fraction eluted later (1.1-1.8 L) was evaporated to dryness under reduced pressure to give an isomer (0.9 g) showing [α]25D -12.7° (c=1, CHCl3) as a colorless syrup. The isomer eluted earlier: NMR (CDCl3) δ: 2.12 (6H, s, CH3S--×2), 2.84 (1H, d, J=5.2 Hz, 5--OH), 3.44 (1H, dd, J=0.5 Hz, 2.6 Hz, 1--OH), 3.62 (2H, d, J=4.8 Hz, 6--CH2), 3.85 (1H, dd, J=0.5 Hz, 2.7Hz, (MeS)2CH--), 3.93 (1H, dd, J=3.5 Hz, 6.2 Hz, 4--CH), 4.03 (1H, t*, J=3.5 Hz, 4.2 Hz, 3--CH), 4.05-4.10 (1H, m, 5--CH), 4.15 (1H, dd, J=4.2 Hz, 8.3 Hz, 2--CH), 4,23 (1H, td*, J=2.6 Hz, 2.7 Hz, 8.3 Hz, 1--CH); 4.50 (1H, d, J=11.9 Hz), 4.55 (1H, d, J=11.9 Hz), 4.58 (1H, d, J=11.5 Hz), 4.60 (1H, d, J=11.2 Hz), 4.61 (1H, d, J=11.2 Hz), 4.63 (1H, d, J=11.5 Hz), 4.65 (1H, d, J=11.2 Hz) and 4.71 (1H, d, J=11.2 Hz)(PhCH2 --×4); 7.24-7.38 (20H, m, C6H5 --×4)(* apparent splitting pattern). Elemental analysis for C37H44O6S2 : Calc.(%): C, 68.49; H, 6.83; S, 9.88. Found(%): C, 68.78; H, 6.92; S, 9.76. The isomer eluted later: NMR (CDCl3) δ: 1.97 (3H, s, CH3S--), 1.99 (3H, s, CH3S--), 2.96 (1H, d, J=5.2 Hz, --OH), 3.05 (1H, d, J=5.1 Hz, --OH), 3.58-3.69 (3H, m, 1--CH, 6--CH2), 3.73 (1H, dd, J=3.0 Hz, 6.9 Hz, 4--CH), 3.80 (1H, d, J=9.1 Hz, (MeS)2CH--), 4.08-4.15 (1H, m, 5--CH), 4.18 (1H, dd, J=3.0 Hz, 8.3 Hz, 3--CH), 4.37 (1H, dd, J=1.5 Hz, 8.3 Hz, 2--CH); 4.50 (1H, d, J=11.9 Hz), 4.55 (1H, d, J=11.9 Hz), 4.57 (1H, d, J= 11.5 Hz), 4.61 (1H, d, J=11.5 Hz), 4.68 (1H,dd, J=11.3 Hz), 4.73 (1H, d, J=11.4 Hz), 4.82(1H, d, J=11.3 Hz) and 4.94 (1H, d, J=11.4 Hz)(PhCH2 --×4); 7.25-7.34 (20H, m, C6H5 --×4). Elemental analysis for C37H44O6S2 : Calc.(%): C, 68.49; H, 6.83; S, 9.88. Found(%): C, 68.82; H, 6.99; S, 9.58.

reactant | 2,3,4,6-Tetra-O-benzyl-1-C-[bis(methylthio)methyl]-D-glucopyranose | 4.0 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C(SC)SC | C37H42O6S2
reactant | lithium aluminum hydride | 2.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Methanol | 50 mL | CO | CH4O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-Tetra-O-benzyl-1-C-[bis(methylthio)methyl]-D-glucitol | C(C1=CC=CC=C1)O[C@@H](C(O)C(SC)SC)[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C37H44O6S2
